US04448962
A mixture of 1-(2-hydroxyethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid 2.85 g (0.01 mole), piperazine 4.3 g (0.05 mole) and pyridine 4 ml was refluxed at 135°-145° C. for 8 hours by heating. After cooling, the reaction mixture was evaporated under vacuum. The residue was acidified with acetic acid and the insoluble matters were removed by filtration. The filtrate was neutralized with an aqueous solution of caustic soda. The precipitated crystals were collected by filtration, washed with water and dried. The crystals were dissolved in hot diluted hydrochloric acid, ethanol was added and the solution was cooled to precipitate crystals. The precipitated crystals were collected by filtration, washed with ethanol, dried, and recrystallized from ethanol to obtain 1.9 g (51%) of 1-(2-hydroxyethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride. Colorless powders.

reactant | 1-(2-hydroxyethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.01 mole, 2.85 g | OCCN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H9ClFNO4
reactant | piperazine | 0.05 mole, 4.3 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-hydroxyethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 1.9 g, 51% | Cl.OCCN1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C16H18FN3O4.ClH/c17-12-7-10-13(8-14(12)19-3-1-18-2-4-19)20(5-6-21)9-11(15(10)22)16(23)24;/h7-9,18,21H,1-6H2,(H,23,24);1H
